US09101616B2
Step-5: (R)-1-(5-(cyclopropylmethoxy)pyridin-2-yl)ethanamine 2HCl salt
(R)-N-((R)-1-(5-(cyclopropylmethoxy)pyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide (3.2 g, 10.9 mmol) was dissolved in 10N HCl/MeOH (50 mL). The mixture was stirred at room temperature for 3 hours. The mixture was concentrated by N2-flow to give the white precipitate. The solid was collected by filtration and washed with diisopropyl ether to give 3.2 g (49% yield) of the title compound as a white solid:

reactant | (R)-N-((R)-1-(5-(cyclopropylmethoxy)pyridin-2-yl)ethyl)-2-methylpropane-2-sulfinamide | 10.9 mmol, 3.2 g | C1(CC1)COC=1C=CC(=NC1)[C@@H](C)N[S@](=O)C(C)(C)C | C15H24N2O2S
reactant | HCl MeOH | 10N, 50 mL | Cl.CO
product | (R)-1-(5-(cyclopropylmethoxy)pyridin-2-yl)ethanamine 2HCl salt | 3.2 g, 49% yield | Cl.Cl.C1(CC1)COC=1C=CC(=NC1)[C@@H](C)N | InChI=1S/C11H16N2O.2ClH/c1-8(12)11-5-4-10(6-13-11)14-7-9-2-3-9;;/h4-6,8-9H,2-3,7,12H2,1H3;2*1H/t8-;;/m1../s1
